US09023857B2
9-cyclopropyl-2,6-dichloropurine
2,6-Dichloropurine (1 mmol), powdered potassium carbonate (4 mmol) and cyclopropyliodide were vigorously stirred in 5 mL DMSO overnight. After evaporation of the solvent the product was extracted (water/diethylether) and purified by column chromatography (silicagel/1% MeOH in CHCl3). Crystallization from diethylether gave product in 35% yield, mp 121-124° C.

reactant | 2,6-Dichloropurine | 1 mmol | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | potassium carbonate | 4 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | cyclopropyliodide | C1(CC1)I | C3H5I
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 9-cyclopropyl-2,6-dichloropurine | 35% yield | C1(CC1)N1C2=NC(=NC(=C2N=C1)Cl)Cl | C8H6Cl2N4
